US04525204
A solution of 22.65 g (0.1 mol) of 1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one in 110 ml of absolute tetrahydrofuran and 70 ml of absolute ether was cooled to -120° C. under a dry nitrogen atmosphere. A solution of 15.9 g (0.1 mol) of 5-bromopyrimidine in 50 ml of absolute tetrahydrofuran was added dropwise to this solution. 50 ml of a 15% strength solution of n-butyl-lithium in n-hexane were then slowly added dropwise at -120° C. The mixture was subsequently stirred, first at a temperature of about -110° C. for 2 hours and then at -78° C. overnight. The reaction mixture was warmed to room temperature, 100 ml of 10% strength ammonium chloride solution and 200 ml of ethyl acetate were added and the aqueous phase was separated off. The organic phase was washed once with 1 N hydrochloric acid and then twice with saturated sodium chloride solution, dried over sodium sulphate and concentrated. The residue was suspended in ether and the solid was filtered off and recrystallised from acetonitrile. 12.3 g (50% of theory, relative to n-butyl-lithium) of 1-(4-chlorophenoxy)-3,3-dimethyl-2-(pyrimidin-5-yl)-butan-2-ol of melting point 172°-174° C. were obtained.

reactant | 1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one | 0.1 mol, 22.65 g | ClC1=CC=C(OCC(C(C)(C)C)=O)C=C1 | C12H15ClO2
reactant | 5-bromopyrimidine | 0.1 mol, 15.9 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-chlorophenoxy)-3,3-dimethyl-2-(pyrimidin-5-yl)-butan-2-ol | 12.3 g, 50% | ClC1=CC=C(OCC(C(C)(C)C)(O)C=2C=NC=NC2)C=C1 | C16H19ClN2O2
